US05994569
A suspension of 6.54 g of (methoxymethyl)triphenylphosphonium chloride in 38 ml of abs. THF was cooled to -10° and treated with 11.3 ml of nBuLi (1.5 M, hexane). 15 minutes later, the deep red ylide solution was cooled down to -78° and 3.225 g of (S)-2-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propionaldehyde dissolved in 21 ml of abs. THF, were slowly added and the reaction mixture kept for 60 minutes at that temperature. Partition between hexane and EtOH/H2O=8/2, washing of the upper layer with EtOH/H2O=8/2, drying over sodium sulfate, evaporating i. V. and flash chromatography (SiO2, hexane/AcOEt=98/2) delivered 3.11 g of an enolether intermediate as E/Z-mixture, contaminated with some impurities which were removed after the next step. This enolether was hydrolyzed by dissolving it in 35 ml of THF containing 12.5 ml of 25% aq. HCl. After 2.5 h at ambient temperature, the reaction mixture was poured onto crushed ice, extracted with ether, washed with water and brine, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=98/2) yielded 1.76 g of (R)-3-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-butyraldehyde as colourless oil.

reactant | (methoxymethyl)triphenylphosphonium chloride | 6.54 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | nBuLi | 1.5 M, 11.3 ml | [Li]CCCC
reactant | (S)-2-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-propionaldehyde | 3.225 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](C=O)C)(C)C | C20H38O2Si
solvent | THF | C1CCOC1 | C4H8O
product | (R)-3-[(1R,4aR,5S,8aR)-5-(tert-butyldimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-butyraldehyde | 1.76 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](CC=O)C)(C)C | C21H40O2Si
